US05688946
A mixture of 147 mg (0.64 mmol) of (1S or R,2R,3S)-3-amino-4-cyclohexyl-1-cyclopropyl-1-fluoro-2-butanol, 365 mg (0.7 mmol) of (S)-1-(tert-butoxycarbonyl)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazole-4-propionic acid, 71 mg (0.7 mmol) of triethylamine, 114 mg (0.7 mmol) of HOOBT and 285 mg (0.7 mmol) of HOBTU in 15 ml of dimethylformamide is stirred at room temperature overnight under argon. Thereafter, the dimethylformamide is evaporated in a high vacuum and the residue is taken up in 50 ml of ethyl acetate. The ethyl acetate phase is washed with 20 ml of saturated sodium bicarbonate solution and 20 ml of saturated sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. There is obtained (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-3-fluoro-2-hydroxypropyl]-1-Boc-imidazole-4-propionamide as a yellowish foam.

reactant | 3-amino-4-cyclohexyl-1-cyclopropyl-1-fluoro-2-butanol | NC(C(C(F)C1CC1)O)CC1CCCCC1 | C13H24FNO
reactant | (S)-1-(tert-butoxycarbonyl)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]imidazole-4-propionic acid | 0.7 mmol, 365 mg | C(C)(C)(C)OC(=O)N1C=NC(=C1)C[C@@H](C(=O)O)NC([C@H](CC1=CC=CC=C1)CS(=O)(=O)C(C)(C)C)=O | C25H35N3O7S
reactant | triethylamine | 0.7 mmol, 71 mg | C(C)N(CC)CC | C6H15N
reactant | HOOBT | 0.7 mmol, 114 mg | C1=CC=C2C(=C1)C(=O)N(N=N2)O | C7H5N3O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-α-[(S)-α-[(tert-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-3-fluoro-2-hydroxypropyl]-1-Boc-imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](F)C1CC1)O)CC1CCCCC1)CC=1N=CN(C1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C38H57FN4O7S
